US04203979
1-t-Butyl-1-Acetyl-2-Dimethoxyphosphoryl Hydrazine
Acetylchloride (10.8 g) was added dropwise to a stirred solution of triethylamine (13.9 g) and 1-t-butyl-2-dimethoxyphosphoryl hydrazine (9.0 g) in methylenechloride (120 ml) maintained at -20° C. After the addition was complete, the temperature was allowed to rise to 0° C. and kept at this temperature for 1 hour. The mixture was then allowed to warm up to ambient temperature during 2 hours, and the content of the reaction vessel was then stripped to dryness on the rotary evaporator. The residue was extracted with diethylether and the organic extracts dried over magnesium sulfate, filtered and evaporated to dryness, leaving an oil which was subjected to high vacuum for several hours yielding 10.4 g of product.

reactant | Acetylchloride | 10.8 g | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 13.9 g | C(C)N(CC)CC | C6H15N
reactant | 1-t-butyl-2-dimethoxyphosphoryl hydrazine | 9.0 g | C(C)(C)(C)NNP(=O)(OC)OC | C6H17N2O3P
solvent | methylenechloride | 120 ml | C(Cl)Cl | CH2Cl2
product | 1-t-Butyl-1-Acetyl-2-Dimethoxyphosphoryl Hydrazine | 10.4 g | C(C)(C)(C)N(NP(=O)(OC)OC)C(C)=O | C8H19N2O4P
